US04605653
Preparation of 1-(hydroxymethyl)-4-(methylthio)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinolinium iodide
To a solution of 3.09 g (0.01 mole) of 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline-4-thione in acetone 1.94 g (0.02 mole) of methyl iodide are added. The reaction mixture is allowed to stand at room temperature for 24 hours. The crystalline product is filtered off, washed and recrystallized from a mixture of acetone and ether. Yield: 70% (decomposition).

reactant | 1-(hydroxymethyl)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinoline-4-thione | 0.01 mole, 3.09 g | OCC1COC(N2C1C1=CC(=C(C=C1CC2)OC)OC)=S | C15H19NO4S
reactant | acetone | 0.02 mole, 1.94 g | CC(=O)C | C3H6O
reactant | methyl iodide | CI | CH3I
product | 1-(hydroxymethyl)-4-(methylthio)-9,10-dimethoxy-1,6,7,11b-tetrahydro-2H-[1,3]oxazino[4,3-a]isoquinolinium iodide | Yield: 70% (decomposition) | [I-].OCC1COC(=[N+]2C1C1=CC(=C(C=C1CC2)OC)OC)SC | InChI=1S/C16H22NO4S.HI/c1-19-13-6-10-4-5-17-15(12(10)7-14(13)20-2)11(8-18)9-21-16(17)22-3;/h6-7,11,15,18H,4-5,8-9H2,1-3H3;1H/q+1;/p-1
